US04801708
3.8 g (0.02 mole) of 3-fluorophenylglyoxylic acid in 10 ml of ethanol are slowly added dropwise to a solution of 5.4 g (0.022 mole) of 1-amino-2-methyl-3-methylaminoguanidine hydroiodide in 55 ml of 2N hydrochloride acid. The temperature rises from 20° to 30° C. during this addition and a pale yellow precipitate forms. This mixture is stirred for 2 hours to a temperature in the range from 60° to 70° C., whereupon a clear yellow orange solution forms. After cooling, this solution is neutralised with an aqueous solution of sodium hydroxide. The precipitate is then isolated, washed with water and dried at 70° C., affording 4.3 g (76% of theory) of 3,4-bis(methylamino)-6-(3-fluorophenyl)-4H-1,2,4-triazin-5-one with a melting point of 173°-174° C.

reactant | 3-fluorophenylglyoxylic acid | 0.02 mole, 3.8 g | FC=1C=C(C=CC1)C(C(=O)O)=O | C8H5FO3
reactant | 1-amino-2-methyl-3-methylaminoguanidine hydroiodide | 0.022 mole, 5.4 g | I.NNC(=NC)NNC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloride | 2N, 55 ml | Cl | ClH
product | 3,4-bis(methylamino)-6-(3-fluorophenyl)-4H-1,2,4-triazin-5-one | 4.3 g, 76% | CNC1=NN=C(C(N1NC)=O)C1=CC(=CC=C1)F | C11H12FN5O
